US08975265B2
Step 1: 4-methoxy-pyrimidin-2-ylamine
A solution of 4-chloro-pyrimidin-2-ylamine (10 g, 77 mmol) in methanol (400 mL) under argon, was treated with a solution of sodium methoxide in methanol (25.7%, 51.59 mL, 0.232 mol) whereupon a cream yellow solution was obtained. The reaction was heated at reflux for 3 hours to give a clear yellow green solution. On cooling the volatiles were removed in vacuo and the residue taken up in 100 mL EtOAc and washed with 100 mL water. The organic phase was dried, filtered and concentrated in vacuo to give the title compound as a white solid (9.12 g).

reactant | 4-chloro-pyrimidin-2-ylamine | 77 mmol, 10 g | ClC1=NC(=NC=C1)N | C4H4ClN3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 400 mL | CO | CH4O
solvent | methanol | 0.232 mol, 51.59 mL | CO | CH4O
product | 4-methoxy-pyrimidin-2-ylamine | 9.12 g | COC1=NC(=NC=C1)N | C5H7N3O
